data/polar.json
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[O-:8][c:9]1[cH:19][cH:16][c:18]([CH3:14])[cH:17][cH:20]1.[c:1]12[c:4]([cH:12][cH:10][cH:22][cH:6]1)-[c:5]1[c:2]([cH:7][cH:23][cH:11][cH:13]1)[N+:21]2=[CH:3][CH3:15]>>[c:1]12[c:4]([c:5]3[c:2]([cH:7][cH:23][cH:11][cH:13]3)[n:21]1[CH:3]([O:8][c:9]1[cH:19][cH:16][c:18]([CH3:14])[cH:17][cH:20]1)[CH3:15])[cH:12][cH:10][cH:22][cH:6]2", "epd": [["LP-/Sigma+", [8], [8, 3]], ["Pi-/LP+", [3, 21], [21]]]}
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[O-:1][C:31](=[CH:2][c:14]1[cH:23][cH:7][cH:35][cH:8][cH:24]1)[O:34][CH2:36][CH3:22].[O:3]=[S:16](=[O:4])([N:15]([S:13][C:9]([F:10])([F:11])[F:12])[S:17](=[O:5])(=[O:6])[c:33]1[cH:20][cH:29][cH:26][cH:30][cH:21]1)[c:32]1[cH:18][cH:27][cH:25][cH:28][cH:19]1>>[O:1]=[C:31]([CH:2]([S:13][C:9]([F:10])([F:11])[F:12])[c:14]1[cH:23][cH:7][cH:35][cH:8][cH:24]1)[O:34][CH2:36][CH3:22].[O:3]=[S:16](=[O:4])([N-:15][S:17](=[O:5])(=[O:6])[c:33]1[cH:20][cH:29][cH:26][cH:30][cH:21]1)[c:32]1[cH:18][cH:27][cH:25][cH:28][cH:19]1", "epd": [["LP-/Pi+", [1], [31, 1]], ["Pi-/Sigma+", [2, 31], [2, 13]], ["Sigma-/LP+", [13, 15], [15]]]}
{"reaction_name": "Addition to sulfonyl isocyanates", "rsmi": "[O:1]=[S:6](=[O:2])([N:17]=[C:14]=[O:25])[c:41]1[cH:9][cH:3][c:39]([CH3:42])[cH:4][cH:10]1.[cH:5]1[cH:22][cH:29][c:35]([N:24]2[C:8](=[C:26]([c:7]3[cH:15][cH:36][cH:11][cH:37][cH:16]3)[O:12][CH3:38])[N:13]([c:45]3[cH:20][cH:32][cH:28][cH:33][cH:21]3)[N:40]=[C:31]2[c:27]2[cH:43][cH:18][cH:34][cH:19][cH:44]2)[cH:30][cH:23]1>>[O:1]=[S:6](=[O:2])([N-:17][C:14](=[O:25])[C:26]([c:7]1[cH:15][cH:36][cH:11][cH:37][cH:16]1)([c:8]1[n+:13](-[c:45]2[cH:20][cH:32][cH:28][cH:33][cH:21]2)[n:40][c:31](-[c:27]2[cH:43][cH:18][cH:34][cH:19][cH:44]2)[n:24]1-[c:35]1[cH:29][cH:22][cH:5][cH:23][cH:30]1)[O:12][CH3:38])[c:41]1[cH:9][cH:3][c:39]([CH3:42])[cH:4][cH:10]1", "epd": [["LP-/Pi+", [13], [8, 13]], ["Pi-/Sigma+", [26, 8], [26, 14]], ["Pi-/LP+", [14, 17], [17]]]}
{"reaction_name": "Vilsmeier–Haack formylation", "rsmi": "[c:1]1([H:9])[cH:2][cH:3][cH:4][cH:5][cH:6]1.[CH+:7]=[O:8]>>[c:1]1([CH:7]=[O:8])[cH:2][cH:3][cH:4][cH:5][cH:6]1.[H+:9]", "epd": [["Sigma-/Sigma+", [1, 9], [1, 7]]]}
{"reaction_name": "Addition to sulfonyl isocyanates", "rsmi": "[O:1]=[S:5](=[O:2])([N:12]=[C:11]=[O:22])[c:40]1[cH:6][cH:3][c:39]([CH3:41])[cH:4][cH:7]1.[c:8]1([P:35]([c:9]2[cH:17][cH:24][c:37]([N:14]([CH3:31])[CH3:32])[cH:25][cH:18]2)[c:10]2[cH:19][cH:26][c:38]([N:15]([CH3:33])[CH3:34])[cH:27][cH:20]2)[cH:16][cH:23][c:36]([N:13]([CH3:29])[CH3:30])[cH:28][cH:21]1>>[O:1]=[S:5](=[O:2])([N-:12][C:11](=[O:22])[P+:35]([c:8]1[cH:16][cH:23][c:36]([N:13]([CH3:29])[CH3:30])[cH:28][cH:21]1)([c:9]1[cH:17][cH:24][c:37]([N:14]([CH3:31])[CH3:32])[cH:25][cH:18]1)[c:10]1[cH:19][cH:26][c:38]([N:15]([CH3:33])[CH3:34])[cH:27][cH:20]1)[c:40]1[cH:6][cH:3][c:39]([CH3:41])[cH:4][cH:7]1", "epd": [["LP-/Sigma+", [35], [35, 11]], ["Pi-/LP+", [11, 12], [12]]]}
{"reaction_name": "Addition to sulfonyl isocyanates", "rsmi": "[O:1]=[S:6](=[O:2])([N:11]=[C:10]=[O:14])[c:16]1[cH:7][cH:3][c:15]([CH3:17])[cH:4][cH:8]1.[n:5]1[cH:13][nH:9][cH:12][cH:18]1>>[O:1]=[S:6](=[O:2])([N-:11][C:10]([n:5]1[cH:13][nH+:9][cH:12][cH:18]1)=[O:14])[c:16]1[cH:7][cH:3][c:15]([CH3:17])[cH:4][cH:8]1", "epd": [["LP-/Pi+", [9], [13, 9]], ["Pi-/Sigma+", [5, 13], [5, 10]], ["Pi-/LP+", [10, 11], [11]]]}
{"reaction_name": "Acetal deprotection", "rsmi": "[CH3:3][O:7][CH:5]([CH3:6])[O:8][CH3:4].[H+:2].[O:1]([H:9])[H:10]>>[CH3:3][O:7][H:9].[H+:10].[H:2][O:8][CH3:4].[O:1]=[CH:5][CH3:6]", "epd": [["Sigma-/LP+", [5, 8], [8]], ["LP-/Sigma+", [8], [2, 8]], ["LP-/Sigma+", [1], [1, 5]], ["Sigma-/LP+", [5, 7], [7]], ["LP-/Sigma+", [7], [7, 9]], ["Sigma-/LP+", [1, 9], [1]], ["LP-/Pi+", [1], [1, 5]], ["Sigma-/LP+", [1, 10], [1]]]}
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[C:1]12=[N:4][CH2:6][CH2:17][CH2:15][N:7]1[c:5]1[c:10]([cH:2][cH:22][cH:16][cH:18]1)[S:8]2.[CH:3](=[O+:20][CH3:19])[c:21]1[cH:13][cH:11][cH:9][cH:12][cH:14]1>>[c:1]12[n+:7]([c:5]3[c:10]([cH:2][cH:22][cH:16][cH:18]3)[s:8]1)[CH2:15][CH2:17][CH2:6][N:4]2[CH:3]([O:20][CH3:19])[c:21]1[cH:13][cH:11][cH:9][cH:12][cH:14]1", "epd": [["LP-/Pi+", [7], [1, 7]], ["Pi-/Sigma+", [4, 1], [4, 3]], ["Pi-/LP+", [3, 20], [20]]]}
{"reaction_name": "Dearomatizing capture of a tropylium / arenium ion", "rsmi": "[S:3]1(=[O:18])(=[O:19])[c:9]2[c:5]([cH:8][cH:4][cH:13][cH:7]2)[C:15]([O-:6])=[N:14]1.[cH:1]1[cH:2][cH:12][cH:17][cH+:10][cH:16][cH:11]1>>[CH:1]1=[CH:2][CH:12]=[CH:17][CH:10]([N:14]2[S:3](=[O:18])(=[O:19])[c:9]3[c:5]([cH:8][cH:4][cH:13][cH:7]3)[C:15]2=[O:6])[CH:16]=[CH:11]1", "epd": [["LP-/Pi+", [6], [15, 6]], ["Pi-/Sigma+", [14, 15], [14, 10]]]}
